US07964691B2
There were put 2.06 g of indan-1,3-dione manufactured by Tokyo Chemical Industry Co., Ltd., and 30 mL of dry tetrahydrofuran manufactured by Kanto Chemical Co., Inc. in a 100 mL round-bottom flask. To the resultant mixture, 4.6 mL of ally acetate manufactured by Tokyo Chemical Industry Co., Ltd., 5 mL of 1,8-diazabicyclo[5.4.0]undec-7-ene manufactured by Tokyo Chemical Industry Co., Ltd., and 76 mg of tetrakis(triphenylphosphine)palladium prepared according to Supporting Information disclosed in The Journal of Organic Chemistry, Vol. 121, page 8728 (1999) were added. The mixture was stirred for 36 hours at a room temperature under a nitrogen atmosphere. There was added 30 mL of ether to the reaction mixture, and the resultant mixture was washed twice with each 30 mL of saturated aqueous ammonium chloride. The washed mixture was further washed with 30 mL of water, and was further washed with 30 mL of a saturated sodium chloride solution. The washed mixture was dried over magnesium sulfate. The dried mixture was subjected to evaporation to remove the solvents contained therein. The obtained liquid was distilled in vacuo, thereby obtaining 3.17 g of 2,2-diallylindan-1,3-dione as a red-tinged crystal fraction at 130° C. under a pressure of 4 mmHg.

reactant | indan-1,3-dione | 2.06 g | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | acetate | C(C)(=O)[O-]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5 mL | N12CCCCCC2=NCCC1 | C9H16N2
catalyst | tetrakis(triphenylphosphine)palladium | 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ether | 30 mL | CCOCC | C4H10O
product | 2,2-diallylindan-1,3-dione | 3.17 g | C(C=C)C1(C(C2=CC=CC=C2C1=O)=O)CC=C | C15H14O2
